US03984467
Following a procedure similar to that described in Example 42 but using 3.4 g. sodium in 500 ml. dry acetone, 24.7 g. heptanamidine hydrochloride, and 27.2 g. 4-(methylthio)phenyl isothiocyanate (m.p. 60°-61°C.; prepared from 4-methylthioaniline) in 120 ml. dry acetone there was obtained 1-[4-(methylthio)phenyl]-3-(heptanimidoyl)-2-thiourea, m.p. 100°-101°C. (from benzene-n-pentane); hydrochloride (43.5 g.), m.p. 181°-182°C.

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | heptanamidine hydrochloride | Cl.C(CCCCCC)(=N)N
reactant | 4-(methylthio)phenyl isothiocyanate | CSC1=CC=C(C=C1)N=C=S | C8H7NS2
solvent | benzene n-pentane | C1=CC=CC=C1.CCCCC
product | 1-[4-(methylthio)phenyl]-3-(heptanimidoyl)-2-thiourea | CSC1=CC=C(C=C1)NC(=S)NC(CCCCCC)=N | C15H23N3S2
